US04959361
1.76 g (15.7 mmol) was added to a solution of 3 g (14.2 mmol) of 1.3-dihydro-1-phenyl 2H. benzimidazol-2-one in 30 ml of dimethylformamide and the mixture was stirred under nitrogen for 15 minutes. propargyl bromide, 1.4 ml (15 mmol) was then added and stirring was continued for 30 minutes at room temperature and 15 minutes on the steam bath. The product was precipitated by dilution with saturated aqueous sodium bicarbonate solution and was filtered off, washed with water and sucked dry. It was dissolved in methylene chloride and the solution was passed over a plug of silica gel using methylene chloride. The filtrate was evaporated and the residue was crystallized from methylene chloride/ethyl acetate to give colorless crystals of 1.3-dihydro-1-phenyl-3-(2-propynyl)-2H-benzimidazol-2 one with m.p. 145°-147°.

reactant | benzimidazol-2-one | N=1C(N=C2C1C=CC=C2)=O | C7H4N2O
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1.3-dihydro-1-phenyl-3-(2-propynyl)-2H-benzimidazol-2 one | C1(=CC=CC=C1)N1C(N(C2=C1C=CC=C2)CC#C)=O | C16H12N2O
